US05158936
N-Benzyloxycarbonyl-L-leucyl-L-phenylalanine And Other Compounds of Formula (2)
N-Benzyloxycarbonyl-L-leucyl-L-leucine (m.p. 70°-76° C.) from N-benzyloxycarbonyl-L-leucine and L-leucine methyl ester hydrochloride.

reactant | N-Benzyloxycarbonyl-L-leucyl-L-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O | C20H30N2O5
reactant | N-benzyloxycarbonyl-L-leucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | L-leucine methyl ester hydrochloride | Cl.COC([C@@H](N)CC(C)C)=O
product | N-Benzyloxycarbonyl-L-leucyl-L-phenylalanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C23H28N2O5
